US06420359B1
i) 5,11-Dihydro-11-ethyl-5-methyl-8-{2-{(1-oxido-4-quinolinyl)oxy}ethyl}-2-(trifluoromethyl)-6H-dipyrido[3,2-b:2′,3′-e] [1,4] diazepin-6-one
Solid mCPBA (80-85%, m-chloroperbenzoic acid) (16 mg, 0.08 mmol) was added to a solution of 5,11-dihydro-11-ethyl-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-2-(trifluoromethyl)-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one (22 mg, 0.04 mmol) in CH2Cl2 (0.5 mL) at room temperature. The mixture was stirred at room temperature for 2.5 h then diluted with CH2Cl2. The resulting solution was successively washed with aqueous 10% Na2S2O3, aqueous saturated NaHCO3 and brine, dried (MgSO4), filtered and concentrated under reduced pressure. The residue was purified by flash chromatography (MeOH:CHCl3, 5% to 10%) to give the title compound (11 mg, 52% yield) as a white solid: MS (ESI) m/z 511 (MH)+.

reactant | mCPBA | 0.08 mmol, 16 mg | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
reactant | 5,11-dihydro-11-ethyl-5-methyl-8-{2-(4-quinolinyloxy)ethyl}-2-(trifluoromethyl)-6H-dipyrido[3,2-b:2′,3′-e][1,4]diazepin-6-one | 0.04 mmol, 22 mg | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=CC=NC1=CC=CC=C31)=O)C)C=CC(=N2)C(F)(F)F | C26H22F3N5O2
solvent | CH2Cl2 | 0.5 mL | C(Cl)Cl | CH2Cl2
product | 5,11-Dihydro-11-ethyl-5-methyl-8-{2-{(1-oxido-4-quinolinyl)oxy}ethyl}-2-(trifluoromethyl)-6H-dipyrido[3,2-b:2′,3′-e] [1,4] diazepin-6-one | 11 mg, 52% yield | C(C)N1C2=C(N(C(C3=C1N=CC(=C3)CCOC3=CC=[N+](C1=CC=CC=C31)[O-])=O)C)C=CC(=N2)C(F)(F)F | C26H22F3N5O3
